US06489344B1
Methyl 4-formylbenzoate (Aldrich Chemical Co., St. Louis, Mo.) (5.0 g, 30.5 mmol), anhydrous potassium carbonate (4.55 g, 33 mmol) and p-toluenesulfonylmethyl isocyanide (TOSMIC, Aldrich Chemical Co.) (6.83 g, 30.5 mmol) were refluxed in methanol (100 ml) for 3.5 hours. The mixture was then concentrated to dryness in vacuo. The residue was dissolved in ethyl acetate, washed twice with water, dried and concentrated in vacuo to give methyl 4-(1,3-oxazol-5-yl)benzoate as a beige solid (4.95 g).

reactant | Methyl 4-formylbenzoate | 30.5 mmol, 5.0 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | potassium carbonate | 33 mmol, 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluenesulfonylmethyl isocyanide | 30.5 mmol, 6.83 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | methanol | 100 ml | CO | CH4O
product | methyl 4-(1,3-oxazol-5-yl)benzoate | 4.95 g | O1C=NC=C1C1=CC=C(C(=O)OC)C=C1 | C11H9NO3
